US08835420B2
Preparation x13: (S)-2-Chloro-5-fluoro-N-(1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)pyrimidin-4-amine
(S)-1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (90 mg, 0.353 mmol), 2,4-dichloro-5-fluoropyrimidine (88 mg, 0.529 mmol), and N-ethyl-N-isopropylpropan-2-amine (190 μL, 1.058 mmol) were combined in acetonitrile (500 μL). The reaction mixture was heated to 120° C. in a microwave reactor for 1 hour. After removal of solvent, the residue was diluted with MeOH and dichloromethane, and was purified by preparative HPLC, eluting with a gradient of 15-25% ACN in H2O with 0.35% TFA. The fractions were collected and solvent was removed in vacuo to give the title compound (136 mg, 100%). ESI-MS m/z [M+H]+ calc'd for C18H17ClFN7, 386; found 386.

reactant | (S)-1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.353 mmol, 90 mg | CN1C=CC2=NC(=C(C=C21)C2=CC=NN2C)[C@H](C)N | C14H17N5
reactant | 2,4-dichloro-5-fluoropyrimidine | 0.529 mmol, 88 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.058 mmol, 190 μL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 500 μL | C(C)#N | C2H3N
product | (S)-2-Chloro-5-fluoro-N-(1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)pyrimidin-4-amine | 136 mg, 100% | ClC1=NC=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CC=NN2C)F | C18H17ClFN7
